* C:\Users\manojg\Dropbox\EMI_Sense_2\Spice_models\3-Phase Model\Draft2.asc
V1 N001 N003 SINE(0 10 10000) Rser=1
V2 N004 N003 SINE(0 10 40000) Rser=1
V3 Vph1 0 SINE(0 100 50)
R1 N001 Vph1 5
R2 N004 0 5
V5 N001 N004 SINE(0 10 85000)
R3 N002 N003 1
R4 N002 0 5
.tran 0 20m 0 0.0001
.backanno
.end
