* C:\Users\manojg\Dropbox\EMI_Sense_2\Spice_models\AC Power Flow ver 1.2.asc
L1 In2+ In2- 100µ Rser=0.01
L2 Out2+ 0 900µ Rser=.01
V1 In2+ 0 SINE(0 100 50) Rser=0.01
L3 0 Out2- 900µ Rser=0.01
V4 In2- 0 SINE(0 100 50) Rser=0.01
.tran 1s
K1 L1 L2 L3 1
.backanno
.end
